US07288674B2
33 mL of thionyl chloride was added dropwise to a mixture of 50.3 g of 2-naphthylglycine (racemic body) and 200 mL of methanol (dehydrated) at an inner temperature of 35° C. inner temperature over 1 hour and the mixture was stirred at the same temperature for 3 hours to effect reaction. The reaction mixture was concentrated and the resulting concentrated residue was mixed with 200 mL of diethyl ether. Then, the crystals produced were recovered by filtration and washed with 50 mL of diethyl ether. The crystals recovered by filtration were dried at an inner temperature of 50° C. under reduced pressure to obtain 59.0 g of white 2-naphthylglycine methyl ester hydrochloride (yield: 94%).

reactant | thionyl chloride | 33 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-naphthylglycine | 50.3 g | C1=C(C=CC2=CC=CC=C12)NCC(=O)O | C12H11NO2
reactant | methanol | 200 mL | CO | CH4O
product | 2-naphthylglycine methyl ester hydrochloride | 59.0 g, yield: 94% | Cl.COC(CNC1=CC2=CC=CC=C2C=C1)=O | InChI=1S/C13H13NO2.ClH/c1-16-13(15)9-14-12-7-6-10-4-2-3-5-11(10)8-12;/h2-8,14H,9H2,1H3;1H
